US07973181B2
Stage 1: (4-Bromo-benzyl)-carbamic acid benzyl ester
A solution of 4-bromobenzylamine (5 g, 26.9 mmol) in THF (50 ml) and water (50 ml) was cooled down to 0° C. with sodium hydroxide (1.13 g, 28.2 mmol). Benzyl chloroformate (4.0 ml, 28.2 mmol) was added slowly and the reaction mixture was stirred at 0° C. for 1 h and at r.t. for 18 hours. Brine (50 ml) and EtOAc (50 mL) were added and the phases were separated. The aqueous phase was extracted with EtOAc (40 mL). The organic phase was dried over magnesium sulfate, filtered and concentrated to dryness to yield a light pink solid (9.27 g, 100%). 1H NMR (300 MHz, CDCl3), δ: 4.34 (2 H, d, J=6.0 Hz, CH2NH), 5.14 (2 H, s, OCH2), 7.17 (2 H, d, J=8.1 Hz, Ar), 7.33-7.40 (5 H, m, Ar), 7.46 (2 H, d, J=8.3 Hz, Ar)

reactant | 4-bromobenzylamine | 26.9 mmol, 5 g | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | sodium hydroxide | 28.2 mmol, 1.13 g | [OH-].[Na+]
reactant | Benzyl chloroformate | 28.2 mmol, 4.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | Brine | 50 ml | [Cl-].[Na+].O
product | (4-Bromo-benzyl)-carbamic acid benzyl ester | 9.27 g, 100% | C(C1=CC=CC=C1)OC(NCC1=CC=C(C=C1)Br)=O | C15H14BrNO2
